US05864039
4-Amino-5-chloro-2-methoxy-N-(piperidin-4-ylmethyl)benzamide dihydrochloride (0.98 g) as starting compound and 7-bromo-1-(1-methyl-1 H-indol-3-yl)-1-heptanone were reacted and treated in the same manner as in Example 172 to give 0.83 g of 4-amino-5-chloro-2-methoxy-N-((1-(7-(1-methyl-1 H-indol-3-yl)-7-oxoheptyl)piperidin-4-yl)methyl)-benzamide. This compound was treated with hydrochloric acid-ethanol to obtain its hydrochloride as crystals.

reactant | 4-Amino-5-chloro-2-methoxy-N-(piperidin-4-ylmethyl)benzamide dihydrochloride | 0.98 g | Cl.Cl.NC1=CC(=C(C(=O)NCC2CCNCC2)C=C1Cl)OC
reactant | 7-bromo-1-(1-methyl-1 H-indol-3-yl)-1-heptanone | BrCCCCCCC(=O)C1=CN(C2=CC=CC=C12)C | C16H20BrNO
product | 4-amino-5-chloro-2-methoxy-N-((1-(7-(1-methyl-1 H-indol-3-yl)-7-oxoheptyl)piperidin-4-yl)methyl)-benzamide | 0.83 g | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCCCCC(=O)C2=CN(C3=CC=CC=C23)C)C=C1Cl)OC | C30H39ClN4O3
